US05760259
12-Phenyl-11-dodecenoic acid
This compound was synthesized from 10-carboxydecyltriphenylphosphonium bromide (10.55 g, 20 mmol) and benzaldehyde (2.12 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Kugelrohr distillation (bp 152°-155° C./0.03 torr) and crystallization afforded the product (2.43 g, 44%) as white crystals (mp 27°-27.5° C.). IR: 3400-2500, 1720, 700 cm-1 ; 1H-NMR: 1.30 (m, 10H), 1.40 (m, 2H), 1.62 (m, 2H), 2.35 (m, 4H), 5.65 (m, 1H), 6.40 (m, 1H), 7.25 (m, 5H), 10.40 (bs, 1H). Anal. Calcd. for C18H26O2 : C, 78.79, H, 9.55%; Found: C, 78.66, H, 9.60%. Z:E=93:7.

reactant | 10-carboxydecyltriphenylphosphonium bromide | 20 mmol, 10.55 g | [Br-].C(=O)(O)CCCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzaldehyde | 20 mmol, 2.12 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 12-Phenyl-11-dodecenoic acid | 2.43 g, 44% | C1(=CC=CC=C1)C=CCCCCCCCCCC(=O)O | C18H26O2
